US08138206B2
Production of 5-bromo-2-(difluoromethoxy)pyridine
5-Bromopyridin-2(1H)-one (17.4 g, 100 mmol) was mixed with sodium sulfate (1.42 g, 10 mmol) and 2-(fluorosulfonyl)difluoroacetic acid (11.4 ml, 100 mmol) in acetonitrile, and stirred overnight at room temperature. Aqueous saturated sodium hydrogencarbonate solution was added to the reaction solution, and the solvent was concentrated under reduced pressure. The residue was dissolved in diethyl ether, washed with saturated saline, the organic layer was dried with sodium sulfate, and the solvent was evaporated off under reduced pressure. The residue was purified through silica gel column chromatography (eluate: ethyl acetate/hexane=20/80 to 50/50) to obtain the entitled compound (18.75 g, 84%) as a pale yellow oily substance.

reactant | 5-Bromopyridin-2(1H)-one | 100 mmol, 17.4 g | BrC=1C=CC(NC1)=O | C5H4BrNO
reactant | sodium sulfate | 10 mmol, 1.42 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-(fluorosulfonyl)difluoroacetic acid | 100 mmol, 11.4 ml | FS(=O)(=O)C(C(=O)O)(F)F | C2HF3O4S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-bromo-2-(difluoromethoxy)pyridine | 18.75 g, 84% | BrC=1C=CC(=NC1)OC(F)F | C6H4BrF2NO
